Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, Arm Pain/Myalgias
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with a history of 
metastatic recurrent bladder cancer s/p cystectomy and ileal 
conduit on cycle 1 of pembrolizumab who presents with fever and 
body aches.

Mr. ___ has a history of recurrent urinary tract infections 
with MDR organisms. Of note he was admitted ___ for fever 
with ultimately negative blood and urine cultures. He was 
discharged on prophylactic fosphomycin.

Today he developed left shoulder pain followed by bilateral 
shoulder pain and them diffuse cramping. His primary oncologist 
was called, additional pain medication and hydration were 
recommended. Given lack of improvement he was taken to local ED 
where temperature was ___. He has blood/urine cultures, 
received 1x ertapenem and was transferred to ___.

ED initial vitals were 97.5 93 104/55 18 98% RA. 
Prior to transfer vitals were 98.1 77 114/59 16 98% RA.

ED work-up significant for:
- CBC: WBC: 11.6*. HGB: 7.5*. Plt Count: 241. Neuts%: 92.6*. 
- Chemistry: Na: 137 (New reference range as of ___. K: 
4.9. Cl: 103. CO2: 19*. BUN: 29*. Creat: 1.4*. 
- Lactate: 2.0
- UA: WBC 20, Nit neg, bact few

ED management significant for:
- Medications: hydromorphone 1mg iv x2, APAP 650mg x1.

Patient denies chills, night sweats, headache, vision changes, 
dizziness/lightheadedness, weakness/numbnesss, shortness of 
breath, cough, hemoptysis, chest pain, palpitations, abdominal 
pain, nausea/vomiting, diarrhea, hematemesis, 
hematochezia/melena, dysuria, hematuria, and new rashes.
 
Past Medical History:
Mr. ___ has a ___ year history of chronic self catheterization 
secondary to injury from agent orange exposure. About 2 or ___ 
years ago, he began developing hematuria, including large clots 
that would block his catheter. He saw his urologist and reports  
a normal report. In ___ or ___, however, he 
developed very heavy hematuria while residing in ___. He 
underwent CT imaging which revealed a 6 cm mass in the bladder, 
with biopsy confirming bladder carcinoma. He returned to ___ 
at the end of ___ and was seen by urology with radical 
cystoprostatectomy on ___ notable for 6.5 x 3.5 x 3.0cm high 
grade urothelial ca, a separate focus of papillary transitional 
cell, and right lobe of prostate ___ 3+4 prostate cancer, 
with 2 positive lymph nodes (right obturator lymph node, left 
obturator lymph node).

During a ___ admission, CT A&P revealed an abnormal left pelvic 
sidewall soft tissue, potentially evidence of metastatic  
disease.
He also had biopsy of a paraesophageal node which was consistent 
with metastatic bladder cancer.

- ___ C1D1 Gemcitabine/Cisplatin  
- ___- cycle interrupeted on ___ due to UTI and sepsis  
- ___: completed 10 days of XRT to pelvic sidewall which 
has improved pain

PAST MEDICAL HISTORY:  
- Agent orange exposure 
- Hypertension
- Dyslipidemia
- DM
- Recurrent urosepsis
- Hydronephrosis on left - had a nephrostomy tube back in 
___
 
Social History:
___
Family History:
His parents died of cancer of unknown primary.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VS: 98.4 PO 123 / 63 77 18 99 RA.
GENERAL: Well-appearing gentleman in no distress lying, in bed 
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no 
murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, ileal conduit with pink mucosa draining 
clear urine with mucus, normal bowel sounds, soft, non-tender, 
no guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema 
or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII 
intact. Strength full throughout. Sensation to light touch 
intact.
SKIN: No significant rashes.

========================
Discharge Physical Exam:
========================
VS: Temp 98.5, BP 167/83, HR 74, RR 18, O2 sat 98% RA.
GENERAL: Well-appearing gentleman in no distress lying.
HEENT: Anicteric, EOMI, Mucous membranes moist, OP clear.
CARDIAC: Regular rate and rhythm.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally.
ABD: Non-distended, ileal conduit with pink mucosa draining 
clear urine, soft, non-tender, no guarding, no palpable masses, 
no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. Decreased 
range of motion with forward arm raise on left shoulder. 
Tenderness to palpation over left biceps tendon.
NEURO: A&Ox3, no focal deficits.
SKIN: No significant rashes.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 01:20AM BLOOD WBC-11.6*# RBC-2.82* Hgb-7.5* Hct-25.1* 
MCV-89 MCH-26.6 MCHC-29.9* RDW-17.2* RDWSD-55.8* Plt ___
___ 01:20AM BLOOD Neuts-92.6* Lymphs-3.1* Monos-2.9* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-10.74*# AbsLymp-0.36* 
AbsMono-0.34 AbsEos-0.03* AbsBaso-0.03
___ 01:20AM BLOOD Glucose-289* UreaN-29* Creat-1.4* Na-137 
K-4.9 Cl-103 HCO3-19* AnGap-15
___ 01:20AM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.9
___ 11:15PM BLOOD Lactate-2.0
___ 07:15AM BLOOD ALT-10 AST-7 AlkPhos-56 TotBili-<0.2

===============
Discharge Labs:
===============
___ 06:46AM BLOOD WBC-6.7 RBC-3.06* Hgb-8.1* Hct-26.6* 
MCV-87 MCH-26.5 MCHC-30.5* RDW-16.7* RDWSD-52.8* Plt ___
___ 06:46AM BLOOD Glucose-201* UreaN-30* Creat-1.5* Na-142 
K-5.1 Cl-101 HCO3-25 AnGap-16
___ 06:46AM BLOOD Calcium-9.3 Phos-3.4 Mg-1.9

=============
Microbiology:
=============
___ Blood Culture x 2 at ___ - NGTD
___ Urine Culture at ___ - Mixed Flora
___ Blood Culture x 2 - Pending
___ Urine Culture - Mixed Bacterial Flora

========
Imaging:
========
Bilateral Shoulder X-Ray ___
Impression: No acute bony injury seen. Degenerative changes as 
described.

CT Chest w/ Contrast ___
1. Continued improvement in subcarinal/right paraesophageal soft 
tissue mass now measuring 1.2 cm, previously 1.5 cm without 
evidence of invasion.
2. Stable multiple bilateral lung nodules, unchanged since ___.
3. Stable calcified left pleural plaque, likely secondary to 
prior asbestos exposure.

CT Abdomen/Pelvis w/ Contrast ___
1. Rim enhancing lesion along the left pelvic sidewall is stable 
in size with increased rim enhancement, which could represent a 
necrotic metastatic lymph node.
2. No evidence of additional metastatic disease in the abdomen 
or pelvis.
3. The stomach is distended and filled with debris.
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of 
metastatic recurrent bladder cancer s/p cystectomy and ileal 
conduit on cycle 1 of pembrolizumab who presents with fever and 
body aches.

# Fever: Unclear cause. Originally thought possibly UTI given 
history of recurrent UTIs but urine cultures negative. No 
localizing symptoms of infection. He was started on meropenem 
and had no further fevers. ID was consulted. He had a CT torso 
which did not show any definite source of infection except noted 
for necrotic lymph node. Discussed with ID and ___ who 
felt most likely lymph node was not infected/abscess. Felt 
fevers may be due to pembrolizumab. Meropenem was discontinued 
and he was monitored for 24-hour without further fevers. ID 
recommended if further fever at home without red flag symptoms, 
patient should be evaluated in outpatient clinic with infectious 
work-up to avoid repeated ED visits/hospitalizations. He will 
continued weekly fosfomycin for continued UTI suppression.

# Shoulder Pain/MSK Pain: Possibly biceps tendonitis. Possibly 
due to pembrolizumab. Cardiac work-up negative. Shoulder x-rays 
unremarkable. CT without evidence of bone metastasis. OT 
consulted, recommending outpatient OT. Could also consider 
steroids if worsening symptoms.

# Cancer-Related Pain: Currently well controlled on regimen. 
Continued home oxycontin and oxycodone with bowel regimen.

# Hypertension/Hyperlipidemia: Continued amlodipine. Lisinopril 
on hold per PCP. Continued aspirin and atorvastatin.

# CKD stage III: At baseline. 

# Metastatic Bladder Cancer: On pembrolizumab and radiation 
therapy. Follow-up with outpatient Oncologist.

# DM: Continued home lantus. Held glipizide during 
hospitalization and restarted at time of discharge.

# Anemia: Likely multifactorial. No evidence of bleeding. Counts 
stable.

====================
Transitional Issues:
====================
- Patient with fever without clear source. Consider aspiration 
of necrotic lymph node to evaluate for infection if continued 
issues with fever. Also would recommend outpatient work-up of 
future fevers if no red flag symptoms to avoid repeated ED 
visits/hospitalizations.
- Please follow-up pending blood cultures from ___ and 
___.
- Patient provided with 1 month supply of oxycontin at 
discharge.
- Please provide outpatient OT to progress left shoulder range 
of motion.
- Please ensure follow-up with Oncology.

BILLING: 45 minutes spent coordinating care for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. amLODIPine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
6. Omeprazole 20 mg PO BID 
7. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
8. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

9. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Senna 17.2 mg PO BID:PRN constipation 
12. Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE) 
13. GlipiZIDE 5 mg PO BID 
14. Glargine 20 Units Breakfast
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Docusate Sodium 100 mg PO BID:PRN constipation  
6.  Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE)  
7.  GlipiZIDE 5 mg PO BID  
8.  Glargine 20 Units Breakfast 
9.  Omeprazole 20 mg PO BID  
10.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
11.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
12.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone 10 mg Take 1 tablet by mouth every 12 hours. Disp 
#*60 Tablet Refills:*0 
13.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
14.  Senna 17.2 mg PO BID:PRN constipation
 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary Diagnosis:
- Fever
- Shoulder/Musculoskeletal Pain
- Cancer-Related Pain
- Metastatic Bladder Cancer
- Stage III Chronic Kidney Disease
- Diabetes
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted with fever and 
muscle/joint pain.

You were evaluated extensively for the cause of the fever. You 
had multiple cultures and imaging studies. You were seen by the 
Infectious Disease team as well. You were on antibiotics while 
in the hospital however there was no definitive source of 
infection so the antibiotics were discontinued. The imaging did 
not show any source of infection but did note a necrotic lymph 
node however after discussion with the Radiologists and 
Infectious Disease doctors it was ___ that this was likely not 
infected. You continued to feel well and were discharged off of 
antibiotics. You will continue to take your weekly fosfomycin 
for prevent further urinary infections. It is possible your 
fevers were caused by your immunotherapy.

We hope to avoid further Emergency Room visits and 
hospitalizations due to your fever. Please call your Oncologist 
if you have further fevers. The hope is that you can be 
evaluated for infection in clinic instead of going to the ER 
initially. However if you have "red flag" symptoms you should go 
to the ER urgently after alerting your Oncologist. These include 
high-grade fever (temp > 102), persistent/multiple fevers, 
shortness of breath/cough, severe abdominal pain, diarrhea, and 
changes in urine output (cloudy, foul smelling, bloody).

You muscle/joint pain was likely due to your immunotherapy. You 
had x-rays of your shoulders that were negative. Please continue 
to take your pain medications. If your muscle and joint pain 
worsens please call your Oncologist as they may increase your 
pain medication or start you on steroids.

Please continue the rest of your home medications. Please 
follow-up with your doctors as below.

All the best,
Your ___ Team
 
Followup Instructions:
___